US07491710B2
6.15 g of tetrabutylammonium fluoride are added to a solution of 13.4 g of 5-benzyloxy-3-(1-tert-butoxycarbonyl-5-tert-butylsilanyloxy-1H-indol-2-yl)-indazole-1-carboxylic acid tert-butyl ester in 140 ml of tetrahydrofuran. The medium is stirred for 30 minutes at ambient temperature. The reaction crude is washed with 3 times 25 ml of water, the organic phase is then dried over magnesium sulfate and then filtered, and the solvent is evaporated off under reduced pressure in a rotary evaporator. 14.4 g of crude product are obtained, which are purified by flash chromatography (silica 40-63 μm), eluent: dichloromethane/methanol 98:2 to obtain 8.54 g of 5-benzyloxy-3-(1-tert-butoxycarbonyl-5-hydroxy-1H-indol-2-yl)-indazole-1-carboxylic acid tert-butyl ester.

reactant | tetrabutylammonium fluoride | 6.15 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-benzyloxy-3-(1-tert-butoxycarbonyl-5-tert-butylsilanyloxy-1H-indol-2-yl)-indazole-1-carboxylic acid tert-butyl ester | 13.4 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)O[SiH2]C(C)(C)C)C(=O)OC(C)(C)C | C36H43N3O6Si
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 5-benzyloxy-3-(1-tert-butoxycarbonyl-5-hydroxy-1H-indol-2-yl)-indazole-1-carboxylic acid tert-butyl ester | 8.54 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)O)C(=O)OC(C)(C)C | C32H33N3O6
